US09126962B2
Preparation of intermediate 1-(4-(methylcarbamoyl)-3-fluorophenylamino)cyclopropanecarboxylic acid
To a stirred solution of 4-bromo-2-fluoro-N-methylbenzamide (6.4 g, 27.5 mmol), 1-aminocyclopropanecarboxylic acid (4.29 g, 42.4 mmol), CuI (1.047 g, 5.5 mmol), K2CO3 (9.50 g, 68.0 mmol), in DMF (64 mL) was added H2O (6.4 mL), triethylamine (0.164 mL, 1.1 mmol) followed by 2-acetyl cyclohexanone (0.717 g, 5.10 mmol). The reaction mixture was stirred at 100° C. overnight. The reaction was monitored by TLC and LCMS. H2O was added, and the aqueous layer was washed with ethyl acetate. The aqueous layer was acidified with 1M citric acid solution (pH˜4) and extracted with ethyl acetate. The organic extracts were dried over anhydrous Na2SO4, concentrated under reduced pressure and crystallized with DCM to afford 3.01 g of the title compound as an off-white solid.

reactant | 4-bromo-2-fluoro-N-methylbenzamide | 27.5 mmol, 6.4 g | BrC1=CC(=C(C(=O)NC)C=C1)F | C8H7BrFNO
reactant | 1-aminocyclopropanecarboxylic acid | 42.4 mmol, 4.29 g | NC1(CC1)C(=O)O | C4H7NO2
reactant | K2CO3 | 68.0 mmol, 9.50 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-acetyl cyclohexanone | 5.10 mmol, 0.717 g | C(C)(=O)C1C(CCCC1)=O | C8H12O2
solvent | DMF | 64 mL | CN(C)C=O | C3H7NO
catalyst | CuI | 5.5 mmol, 1.047 g | [Cu]I
catalyst | triethylamine | 1.1 mmol, 0.164 mL | C(C)N(CC)CC | C6H15N
solvent | H2O | O | H2O
solvent | H2O | 6.4 mL | O | H2O
product | 1-(4-(methylcarbamoyl)-3-fluorophenylamino)cyclopropanecarboxylic acid | 3.01 g | CNC(=O)C1=C(C=C(C=C1)NC1(CC1)C(=O)O)F | C12H13FN2O3
